US08440840B2
Introduction of the thiophene-unit to the squarylium dye framework was achieved by palladium catalyzed Stille coupling reaction. Under inert atmosphere, to a mixture of brominated squarylium dye 12, Pd(PPh3)4, 2 equivalents of CsF in toluene, thienyl-stannane was added. The reaction mixture was stirred at 120° C. for 12 h. After cooling to room temperature, dichloromethane was added. The white salt (Bu3SnF) formed during the reaction was filtered off and the solvent removed under reduced pressure. Purification of the crude product was performed by column chromatography on silica gel with (2/8) dichloromethane/ethylacetate to give the pure thiophene derived squarylium dye 13 as green solid.

reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | CsF | 2 equivalents | [F-].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | thienyl-stannane | S1C(=CC=C1)[SnH3]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | [Pd] | Pd
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Bu3SnF | [Sn](CCCC)(CCCC)(CCCC)F | InChI=1S/3C4H9.FH.Sn/c3*1-3-4-2;;/h3*1,3-4H2,2H3;1H;/q;;;;+1/p-1
